US05618811
E. 3-Bromo-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepine
To a 200 mL three neck round-bottomed flask equipped with a nitrogen inlet and septum were added 5.48 grams (21.8 mmol) 5-phenyl-8-methyl-2-oxobenzazepine, 100 mL dichloromethane, and 4.55 grams (21.8 mmol) phosphorus pentachloride. After dissolution, 1.85 mL (22.9 mmol) pyridine was added, and the solution cooled to -70° C. To the stirring solution (some precipitate appeared at this temperature, but did not affect the reaction) was added a solution of 1.12 mL (21.8 mmol) bromine in 10 mL methylene chloride dropwise over 20 minutes. The reaction was then allowed to warm quickly (10 minutes) to 0° C., and 50 mL of saturated aqueous sodium bisulfite solution was added. The reaction was then diluted with methylene chloride and allowed to stand under sodium bisulfite solution with periodic shaking for 2 hours, until the organic phase no longer exhibited a reddish color. The organic phase was then dried over sodium sulfate and evaporated. The residue was suspended in methylene chloride and filtered, and the solid dissolved to afford 3.39 grams (47%) of product as a white solid. The filtrate was adsorbed onto silica gel and chromatographed using 7:3 hexane/ethyl acetate as eluant to afford additional product as a white solid, 1.38 g, total 5.14 (71%).

reactant | 5-phenyl-8-methyl-2-oxobenzazepine | 21.8 mmol, 5.48 grams | C1(=CC=CC=C1)C=1C=CC(N=C2C1C=CC(=C2)C)=O | C17H13NO
reactant | phosphorus pentachloride | 21.8 mmol, 4.55 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 22.9 mmol, 1.85 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 21.8 mmol, 1.12 mL | BrBr | Br2
reactant | sodium bisulfite | 50 mL | S([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Bromo-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepine | 3.39 grams, 47% | BrC1C(NC2=C(C(C1)C1=CC=CC=C1)C=CC=C2)=O | C16H14BrNO
